US07148230B2
4-(3-chloro-2-fluoroanilino)-6-[1-(hydroxyacetyl)piperidin-4-yloxy]-7-methoxyquinazoline
HATU (28.9 g) was added to a stirred solution of 4-(3-chloro-2-fluoroanilino)-7-methoxy-6-(piperidin-4-yloxy)quinazoline dihydrochloride (30 g), glycolic acid (5.40 g) and di-isopropylethylamine (44.70 ml) in methylene chloride (900 ml). After 1.5 hours the reaction mixture was washed with sodium hydroxide solution (2M), water and saturated brine. The resulting product was then purified by flash chromatography on silica eluting with 3% MeOH/methylene chloride. The fractions containing the desired product were combined and reduced in vacuo to give the title product as a white solid which was recrystallised from acetonitrile (29.6 g); NMR Spectrum: (DMSO d6) 1.65–1.81 (m, 2H), 1.99–2.10 (m, 2H), 3.26–3.34 (m, 1H), 3.37–3.47 (m, 1H), 3.60–3.68 (m, 1H), 3.81–3.89 (m, 1H), 3.95 (s, 3H), 4.14 (d, 2H), 4.50 (t, 1H), 4.78 (m, 1H), 7.25 (s, 1H), 7.30 (t, 1H), 7.46–7.55 (m, 2H), 7.88 (s, 1H), 8.40 (s, 1H), 9.55 (s, 1H); Mass Spectrum: (M+H)+ 460.94.

reactant | HATU | 28.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(3-chloro-2-fluoroanilino)-7-methoxy-6-(piperidin-4-yloxy)quinazoline dihydrochloride | 30 g | Cl.Cl.ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)OC2CCNCC2)OC)C=CC1)F
reactant | glycolic acid | 5.40 g | C(CO)(=O)O | C2H4O3
reactant | di-isopropylethylamine | 44.70 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-chloro-2-fluoroanilino)-6-[1-(hydroxyacetyl)piperidin-4-yloxy]-7-methoxyquinazoline | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)OC2CCN(CC2)C(CO)=O)OC)C=CC1)F | C22H22ClFN4O4
